US07176212B2
2-Chloro-4-anilinopyrimidine
2,4-Dichloropyrimidine (3.75 g, 25 mmol) was dissolved in EtOH (12 ml) and treated with aniline (2.27 ml, 25 mmol) and triethylamine (3.82 ml, 27.2 mmol). The reaction mixture was heated to reflux for 6 hours, partitioned between EtOAc and water. The organic phase was washed with 1M HCl, dried over MgSO4 and evaporated to obtain a cream coloured solid. This material was purified by chromatography (25–50% EtOAc in isohexane) to give the title product as an off white solid. NMR (300 MHz) 6.73 (d, 1H), 7.08 (t, 1H), 7.35 (t, 2H), 7.57 (d, 2H), 8.12 (d, 1H), 9.95 (brs, 1H); m/z: (ES+) 206 (MH+).

reactant | 2,4-Dichloropyrimidine | 25 mmol, 3.75 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | aniline | 25 mmol, 2.27 ml | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 27.2 mmol, 3.82 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 12 ml | CCO | C2H6O
product | 2-Chloro-4-anilinopyrimidine | ClC1=NC=CC(=N1)NC1=CC=CC=C1 | C10H8ClN3
